US09102623B2
A8.1) Methyl 5-bromo-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate
At room temperature, 0.36 g (2.04 mmol) of N-bromosuccinimide was added to a suspension of 0.3 g (1.36 mmol) of methyl 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate in 10 ml of glacial acetic acid, and the mixture was then heated under reflux for 2 days. The reaction mixture was then added to water and extracted with dichloromethane. The extract was concentrated, and the residue was purified further by preparative HPLC. This gave 227 mg (56% of theory) of a colorless powder.

reactant | N-bromosuccinimide | 2.04 mmol, 0.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate | 1.36 mmol, 0.3 g | O=C1NC(=CC=C1C(=O)OC)C(F)(F)F | C8H6F3NO3
reactant | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Methyl 5-bromo-2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate | BrC=1C=C(C(NC1C(F)(F)F)=O)C(=O)OC | C8H5BrF3NO3
